US04279818
A solution of 7-[2-methoxyimino-2-{-2-(2,2,2-trifluoroacetamido)-1,3-thiazol-4-yl}acetamido]-3-benzoyloxymethyl-3-cephem-4-carboxylic acid (syn isomer) (1.1 g) in acetone (4 ml) was added at ambient temperature to a solution of sodium acetate trihydrate (2.4 g) in water (10 ml), and the mixture was allowed to stand for 3 days at ambient temperature. Acetone was distilled off under reduced pressure and water (10 ml) was added thereto. The resulting mixture was adjusted to pH 2.5 with 10% hydrochloric acid under ice-cooling. Precipitates were collected by filtration, washed with water and dried under reduced pressure to give 7-[2-methoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-benzoyloxymethyl-3-cephem-4-carboxylic acid (syn isomer) (0.62 g).

reactant | 7-[2-methoxyimino-2-{-2-(2,2,2-trifluoroacetamido)-1,3-thiazol-4-yl}acetamido]-3-benzoyloxymethyl-3-cephem-4-carboxylic acid | 1.1 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C2=CC=CC=C2)=O)C(=O)O)C1=O)C=1N=C(SC1)NC(C(F)(F)F)=O | C23H18F3N5O8S2
reactant | sodium acetate trihydrate | 2.4 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | acetone | 4 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
product | 7-[2-methoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-benzoyloxymethyl-3-cephem-4-carboxylic acid | 0.62 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C2=CC=CC=C2)=O)C(=O)O)C1=O)C=1N=C(SC1)N | C21H19N5O7S2
